US04025652
(0.1 mole) of 1-(2,6-dimethylphenyl)-3-(N,N-diethylcarbamyl)thiourea is combined with 200 ml. of methanol and 14.1 g. (0.1 mole) of iodomethane and refluxed for 4 hours. This is then evaporated to dryness and 100 ml. of hexane is added. The mixture is filtered to obtain 1-(2,6-dimethylphenyl)-3-(N,N-diethylcarbamyl)-2-methylthiouronium iodide.

reactant | 1-(2,6-dimethylphenyl)-3-(N,N-diethylcarbamyl)thiourea | 0.1 mole | CC1=C(C(=CC=C1)C)NC(=S)NC(N(CC)CC)=O | C14H21N3OS
reactant | iodomethane | 0.1 mole | IC | CH3I
solvent | methanol | CO | CH4O
product | 1-(2,6-dimethylphenyl)-3-(N,N-diethylcarbamyl)-2-methylthiouronium iodide | [I-].CC1=C(C(=CC=C1)C)[NH+]=C(SC)NC(N(CC)CC)=O | InChI=1S/C15H23N3OS.HI/c1-6-18(7-2)15(19)17-14(20-5)16-13-11(3)9-8-10-12(13)4;/h8-10H,6-7H2,1-5H3,(H,16,17,19);1H
